US07414036B2
To a solution of 2-amino-4-(aminomethyl)-6-bromophenol (560 mg, 2.59 mmol) in 15 mL of DMF, triethylamine (0.37 mL, 2.63 mmol) and di-tert-butyldicarbonate (0.59 mL, 2.59 mmol) were added. The mixture was stirred at room temperature for 1 hour and 15 minutes. The solvent was evaporated and the residue was suspended in EtOAc and filtered. The solution was extracted with 0.5 M NaH2PO4 (3×) and dried. The product was purified by column chromatography (2% MeOH in CH2Cl2) yielding 304 mg (37%) of tert-butylN—(3-amino-5-bromo-4-hydroxybenzyl)carbamate. 1H NMR (CDCl3) δ 6.76 (d, 1H, J=1.8 Hz, H-6); 6.57 (d, 1H, J=1.2 Hz, H-2); 4.13 (d, 2H, J=5.8 Hz, CH2); 1.49 (s, 9H, (CH3)3C); 13C NMR (CDCl3) δ 156.5 (CO), 140.1 (C-4), 136.9 (C-1), 133.0 (C-3), 120.3 (C-6), 114.3 (C-2), 110.7 (C-5), 79.8 ((CH3)3C), 44.2 (CH2), 28.8 ((CH3)3C).

reactant | 2-amino-4-(aminomethyl)-6-bromophenol | 2.59 mmol, 560 mg | NC1=C(C(=CC(=C1)CN)Br)O | C7H9BrN2O
reactant | triethylamine | 2.63 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 2.59 mmol, 0.59 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butylN—(3-amino-5-bromo-4-hydroxybenzyl)carbamate | 304 mg, 37% | C(C)(C)(C)OC(NCC1=CC(=C(C(=C1)Br)O)N)=O | C12H17BrN2O3
